US04060636
To a solution of 3-amino-4-n-butylaminobenzophenone (2.38 g.) in diethyl ether (200 ml.) is added carbomethoxy isothiocyanate (1.4 g.). The reaction mixture is stirred at room temperature for 3 hours. The product is collected by filtration and dried to afford 0.2 g. of product, m.p. 160°-162° C., dec. The filtrate is allowed to stand overnight at room temperature and a second crop is collected amounting to 0.15 g., m.p. 162° C., dec. The total amount of 3-(3-carbomethoxythioureido)-4-n-butylamino-benzophenone obtained is 0.35 g. (10.2% yield).

reactant | 3-amino-4-n-butylaminobenzophenone | 2.38 g | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1NCCCC | C17H20N2O
reactant | carbomethoxy isothiocyanate | 1.4 g | C(=O)(OC)N=C=S | C3H3NO2S
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 3-(3-carbomethoxythioureido)-4-n-butylamino-benzophenone | 10.2% yield | C(=O)(OC)NC(NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1NCCCC)=S | C20H23N3O3S
